US04186135
280 ml of methyl ethyl ketone, 13 g of 2-amino-pyrimidine were put into a 500 ml balloon flask provided with a stirrer and a thermometer. The mixture was cooled to 10° C. and 28 g of ground 6-chloro-1,4-benzodioxane-5-carbonyl chloride was added and stirred for two hours, the temperature being allowed to rise to 20° C. The obtained solid was filtered off, washed with 30 ml of methyl ethyl ketone and then dissolved in 250 ml of boiling water. The solution was treated with 10 ml of 36° Bel caustic soda lye. After filtration 12 g of product were obtained and crystallized again from 150 ml of ethanol. 9.5 g of N-(2-pyrimidyl)-6-chloro-1,4-benzodioxane-5-carboxamide was obtained. (M.P.: 223° C. with decomposition). The structure was confirmed by nuclear magnetic resonance analysis.

reactant | 2-amino-pyrimidine | 13 g | NC1=NC=CC=N1 | C4H5N3
reactant | 6-chloro-1,4-benzodioxane-5-carbonyl chloride | ClC1=C(C2=C(OCCO2)C=C1)C(=O)Cl | C9H6Cl2O3
solvent | methyl ethyl ketone | 280 ml | C(C)C(=O)C | C4H8O
product | N-(2-pyrimidyl)-6-chloro-1,4-benzodioxane-5-carboxamide | 9.5 g | N1=C(N=CC=C1)NC(=O)C1=C(C=CC=2OCCOC21)Cl | C13H10ClN3O3
